US08049016B2
Synthesis of 2-(3-isobutyl-2-oxoimidazolidin-1-yl)-4-methyl-N-((6-methylpyrazin-2-yl)methyl)thiazole-5-carboxamide
Following the procedure as describe in Example 12, making variations as required to replace (5-fluoropyridin-3-yl)methanamine with (6-methylpyrazin-2-yl)methanamine to react with 2-(3-isobutyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid in place of 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a colorless solid in 46% yield: mp 139-142° C. (dichloromethane/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.50 (s, 1H), 8.38 (s, 1H), 6.75-6.72 (m, 1H), 4.69 (d, J=5.0 Hz, 2H), 4.14-4.08 (m, 2H), 3.62-3.56 (m, 2H), 3.13 (d, J=7.4 Hz, 2H), 2.62 (s, 3H), 2.56 (s, 3H), 1.98-1.88 (m, 1H), 0.94 (d, J=6.6 Hz, 6H); 13C NMR (75 MHz, CDCl3) δ 162.6, 157.7, 155.7, 153.1, 152.5, 148.7, 143.4, 142.7, 117.1, 51.5, 42.9, 42.3, 42.0, 26.8, 21.2, 19.9, 17.2; MS (ES+) m/z 388.8 (M+1).

reactant | (5-fluoropyridin-3-yl)methanamine | FC=1C=C(C=NC1)CN | C6H7FN2
reactant | (6-methylpyrazin-2-yl)methanamine | CC1=CN=CC(=N1)CN | C6H9N3
reactant | 2-(3-isobutyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C(C)C)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C12H17N3O3S
product | 2-(3-isobutyl-2-oxoimidazolidin-1-yl)-4-methyl-N-((6-methylpyrazin-2-yl)methyl)thiazole-5-carboxamide | 46% yield | C(C(C)C)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC1=NC(=CN=C1)C)=O | C18H24N6O2S
